US08389769B2
10 g (36 mmol) 4-(3-chloropropoxy)benzophenone was dissolved in 100 mL acetonitrile. 36.4 g (0.36 mol) n.-hexyl amine was added and the mixture was heated to 70° C. for 20 hours. The solvent was evaporated under reduced pressure. The oily residue was treated with 500 mL water. The mixture was acidified to pH=1 and stirred for 16 hours at room temperature. The precipitated compounds were isolated by filtration and washed with 200 mL 1 N HCl. The precipitate was treated with 200 mL 1 N NaOH. The mixture was extracted with 200 mL methylene chloride. The organic fraction was dried over MgSO4 and the solvent was evaporated under reduced pressure. The crude 4-[(3-hexylamino)propoxy]benzophenone was purified by preparative column chromatography on a Prochrom LC80 column, using Kromasil Si 60A 10 mm as silica and a gradient elution from methylene chloride to methylene chloride/methanol 68/32 at a flow rate of 150 mL per minute. 3.9 g of 4-[(3-hexylamino)propoxy]benzophenone was isolated.

reactant | 4-(3-chloropropoxy)benzophenone | 36 mmol, 10 g | ClCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H15ClO2
reactant | hexyl amine | C(CCCCC)N | C6H15N
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-[(3-hexylamino)propoxy]benzophenone | 3.9 g | CCC(CCC)NCCCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C22H29NO2
